US07981918B2
(3-Oxo-cyclohexyl)-carbamic acid benzyl ester
Treat a solution of (3-hydroxy-cyclohexyl)-carbamic acid benzyl ester (15.5 g, 62.24) in dichloromethane (300 mL) with PCC (16.73 g, 77.81 mmol) and stir the mixture at room temperature for 12 hours. Filter the reaction mixture through celite. Remove the solvent in vacuo. Purify the residue on silica gel column using 25% to 50% ethyl acetate in hexanes gradient to afford 12.6 g (82%) of the title compound. MS (m/z): 248 (M+).

reactant | (3-hydroxy-cyclohexyl)-carbamic acid benzyl ester | 15.5 g | C(C1=CC=CC=C1)OC(NC1CC(CCC1)O)=O | C14H19NO3
reactant | PCC | 77.81 mmol, 16.73 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | (3-Oxo-cyclohexyl)-carbamic acid benzyl ester | 12.6 g, 82% | C(C1=CC=CC=C1)OC(NC1CC(CCC1)=O)=O | C14H17NO3
